US04764519
(c) 3-Amino-2-[3-(5,6,7,8-tetrahydroquinol-8-yl)propylamino]-5-(pyrid-3-ylmethyl)pyridine
Hydrazine hydrate (7 ml) in methanol (25 ml) was added with stirring over 25 minutes to a cooled (5°-10° C.) solution of 2-[3-(5,6,7,8-tetrahydroquinol-8-yl)propylamino-3-nitro-5-(pyrid-3-ylmethyl)pyridine (6.1 g) in methanol (300 ml) containing Raney Nickel (ca. 12 g). The solution was stirred for a further hour at 5° C., the catalyst was removed by filtration and the filtrate was concentrated to dryness in vacuo giving the title compound as an orange oil (theoretical yield assumed) which was used unpurified in the next reaction.

reactant | Hydrazine hydrate | 7 ml | O.NN
reactant | 3-(5,6,7,8-tetrahydroquinol-8-yl)propylamino-3-nitro-5-(pyrid-3-ylmethyl)pyridine | 6.1 g | N1=CC=CC=2CCCC(C12)CCCNC1=NC=C(C=C1[N+](=O)[O-])CC=1C=NC=CC1 | C23H25N5O2
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol | 300 ml | CO | CH4O
catalyst | Raney Nickel | ca. 12 g | [Ni] | Ni
product | 3-Amino-2-[3-(5,6,7,8-tetrahydroquinol-8-yl)propylamino]-5-(pyrid-3-ylmethyl)pyridine | NC=1C(=NC=C(C1)CC=1C=NC=CC1)NCCCC1CCCC=2C=CC=NC12 | C23H27N5
